Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo woman ___ woman with a history of only HTN 
presenting with nausea, vomiting, weakness, and dizziness x 1 
month. History is obtained via ___ interpreter. Symptoms 
were worse today, with pt vomiting this morning. Per ED notes, 
pt had L eye cataract surgery about one month ago, and has not 
been feeling well since. Pt denies any change or worsening of 
vision. Pt also reports weight loss over this time. She has not 
been eating well over the past few weeks due to poor appetite. 
She reports that she took a cold medicine a few weeks ago that 
caused her dizziness, but has not taken any since. She denies 
abdominal pain, diarrhea, hematochezia, melena, or dysuria. She 
denies fevers or chills. She denies chest pain or SOB. She 
denies any fainting or falls. She has been constipated. Pt has 
not been to the ___ since ___, and gets most of her care at 
___.  
.  
In the ED, initial vs were: T97.3 P63 BP170/78 R19 O2 sat97% RA. 
On laboratory testing, Na was found to be 112. She was given a 
total of 2L NS, with Na increased to 120, and now ___ on the 
floor. Per ED report, pt is neurologically stable. Pt was also 
given Zofran 4mg IV x 1 for nausea. Head CT performed was 
negative for acute process. Chest CT was negative for PE or 
pneumonia, showing atelectasis, hypoattenuating lesions in liver 
consistent with cysts, and multiple thyroid hypodensities and 
calcifications.  
.  
On the floor, pt appeared tired but was comfortable.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied cough, shortness of 
breath. Denied chest pain or tightness, palpitations. Denied 
diarrhea or abdominal pain. No recent change in bowel or bladder 
habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
HTN  
s/p cataract extraction (___)  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: T:97.3 BP:110/46 P:66 R:16 O2: 98%RA  
General: Alert, oriented, no acute distress; cachectic  
HEENT: Sclera anicteric, MM dry, oropharynx clear, hollowed 
cheeks  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, ___ sysstolic murmur loudest at 
LUSB with loud S2, no rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact grossly, difficult to assess 
strength/sensation due to ___ only, full ROM in all 
joints  

 
Pertinent Results:
___ 10:55PM   WBC-7.5 RBC-3.97* HGB-11.6* HCT-31.6* 
MCV-80*# MCH-29.3 MCHC-36.8* RDW-13.0
___ 10:55PM   NEUTS-77.8* LYMPHS-17.9* MONOS-3.9 EOS-0.2 
BASOS-0.2
___ 10:55PM   PLT COUNT-237
___ 10:55PM   CK-MB-NotDone cTropnT-<0.01
___ 10:55PM   LIPASE-65*
___ 10:55PM   ALT(SGPT)-18 AST(SGOT)-24 CK(CPK)-79 ALK 
PHOS-40 TOT BILI-0.5
___ 10:55PM   GLUCOSE-149* UREA N-16 CREAT-0.8 SODIUM-112* 
POTASSIUM-3.8 CHLORIDE-77* TOTAL CO2-25 ANION GAP-14
___ 01:15AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-100 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM
___ 01:15AM URINE  ___ BACTERIA-RARE 
YEAST-NONE EPI-1 TRANS ___ 01:15AM URINE  HYALINE-1*
___ 04:50AM   GLUCOSE-122* UREA N-11 CREAT-0.7 SODIUM-120* 
POTASSIUM-3.6 CHLORIDE-93* TOTAL CO2-21* ANION GAP-10
___ 10:00AM   GLUCOSE-126* UREA N-11 CREAT-0.9 SODIUM-123* 
POTASSIUM-3.9 CHLORIDE-93* TOTAL CO2-22 ANION GAP-12
___ 04:51PM   GLUCOSE-113* UREA N-12 CREAT-0.9 SODIUM-126* 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-22 ANION GAP-13
___ 04:51PM   CORTISOL-9.4
___ 08:20AM BLOOD WBC-5.5 RBC-4.17* Hgb-12.3 Hct-34.1* 
MCV-82 MCH-29.5 MCHC-36.1* RDW-13.2 Plt ___
___ 08:20AM BLOOD Glucose-101 UreaN-12 Creat-1.0 Na-131* 
K-3.8 Cl-98 HCO3-24 AnGap-13
___ 08:20AM BLOOD Calcium-8.9 Phos-2.9 Mg-2.0
.
CXR ___
IMPRESSION: No CHF or pneumonia.
.
CT HEAD ___
IMPRESSION: No acute intracranial process. Sinus disease as 
described above.
.
CTPA ___
IMPRESSION: 
1. No evidence of pulmonary embolism. 
  
2. Multiple bilateral thyroid hypodensities with coarse 
calcifications. 
Further evaluation with ultrasound is recommended. 

 
Brief Hospital Course:
Assessment and Plan: This is an ___ y/o F with HTN, presenting 
with nausea, vomiting, and weakness x 1 month.  
.  
# Hyponatremia: Pt presented with a Na of 112. She responded to 
2L NS in the ED, going up to 120 on the floor. Pt did not appear 
fluid overloaded on exam, with dry mucous membranes, flat JVP, 
no edema. She has had decreased PO intake recently. Orthostatic 
testing on the floor was negative. Pt was likely hypovolemic, 
with hyponatremia secondary to HCTZ. Na on day of discharge was 
up to 131.  Pt was tolerating PO intake. HCTZ was held, and pt 
was advised to ___ with PCP regarding whether to resume.
.  
# Dizziness: Pt has had a one-month history of dizziness. With 
decreased PO intake, dehydration may be contributing. She did 
not have any history of palpitations, falls, or neurological 
symptoms that would suggest syncope or a neurological etiology. 
Dizziness was resolved on day of discharge. She will be 
following up further with her PCP.  
.  
# Weight loss: unclear etiology. Pt has been having decreased PO 
intake. With age, unexplained weight loss and loss of appetite, 
malignancy is in the differential. CTA did not show any acute 
abnormality or obvious abnormality. Pt is to ___ 
incidental thyroid (with ultrasound) as well as pleural 
thickeninging findings on CT as outpatient with PCP.
.  
# HTN: Stable. BP systolic was in the 170s on presentation to 
the ED. BPs on the floor have been stable in the 110s. Initial 
BP may have been secondary anxiety, with pt presumed to have 
taken her home meds but unclear. HCTZ was held as the likely 
cause of her hyponatremia. Pt was advised to hold her 
HCTZ-Lisinopril combination medication. Pt was continued on her 
home atenolol 25mg PO daily, but PCP may consider ___ this 
as BP has been in 100s systolic.
.  
# Anxiety: stable. Continue Lorazepam 0.5mg PO PRN  
.  
# Osteoporosis: Continue Alendronate 70mg PO qweek  
.  
# FEN: replete electrolytes PRN, regular diet, bowel regimen  
.  
# Prophylaxis: Subcutaneous heparin  
.  
# Access: peripherals  
.  
# Code: presumed full  
.  
# Communication: ?Grandson ___, Son ___ 
___, Husband/home ___. Attempted to contact 
family at various numbers above but no answer. Left messages.  
.  
# Disposition: home as hyponatremia resolving, with PCP 
___. 
.  

 
Medications on Admission:
Lorazepam 0.5mg PO PRN  
Atenolol 25mg PO daily  
Acetaminophen 100mg PO PRN  
MVT  
Lisinopril-HCTZ ___ POmg daily  
Alendronate 70mg PO qweek  

 
Discharge Medications:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain or fever.  
3. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for anxiety.  
4. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia

 
Discharge Condition:
Good, hemodyanamically stable, afebrile, tolerating PO intake

 
Discharge Instructions:
You were admitted for evaluation of dizziness. You were found to 
have a low blood sodium level, and were treated with IV fluids. 
Your sodium level are now close to normal. Additional testing to 
evaluate your dizziness, including a chest x-ray, head CT scan, 
chest CT scan, EKG, and other labwork did not show an acute 
cause for your dizziness. You may be dehydration because of you 
have not been eating well.

You should ___ within 1 week with your PCP, ___ 
___ for further evaluation, and for ___ of some incidental 
findings on your CT scan. There were some small thyroid and lung 
changes on your CT. 

If you experience any worsening dizziness, headaches, falls, 
chest pain, shortness of breath, or have any other concerns, 
please call your MD or return to the Emergency Department.

The following changes were made to your medications:
STOP HCTZ-Lisinopril combination pill.

 
Followup Instructions:
___